US07179801B2
A solution of 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1,7-dicarbaldehyde (1 g) and ammonium acetate (653 mg) in nitromethane (20 ml) was refluxed for 4 hours. The reaction mixture was evaporated under reduced pressure and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give 7-[(E)-2-nitroethenyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde (1.00 g).

reactant | 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1,7-dicarbaldehyde | 1 g | N1(CCN2N=CC(=C21)C=O)C=O | C7H7N3O2
reactant | ammonium acetate | 653 mg | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
product | 7-[(E)-2-nitroethenyl]-2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde | 1.00 g | [N+](=O)([O-])/C=C/C1=C2N(N=C1)CCN2C=O | C8H8N4O3
